US07897767B2
mCPBA (77% pure, 36.5 g, 163 mmol) was added over 10 minutes to a stirred suspension of 1-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol (23.6 g, 81.4 mmol) in chloroform (500 mL). The resulting solution was stirred at room temperature for 1.5 hours. Concentrated ammonium hydroxide (200 mL) was added. After 5 minutes, p-toluenesulfonyl chloride (18.6 g, 97.7 mmol) was added in portions. The mixture was stirred at room temperature for 2.3 hours, then was transferred to a separatory funnel. The layers were separated and the aqueous layer was extracted with dichloromethane (2×100 mL, then 3×200 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield a foam. The crude product was purified in portions by chromatography on a HORIZON HPFC system (silica gel, elution with 5% methanol in chloroform followed by gradient elution with 5-15% methanol in chloroform) to yield 9.42 g of 1-[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as a pale yellow solid.

reactant | mCPBA | 163 mmol, 36.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 1-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 81.4 mmol, 23.6 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C15H16ClN3O
reactant | ammonium hydroxide | 200 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 97.7 mmol, 18.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 9.42 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(O)C)CCl | C15H17ClN4O
